US09056850B2
To a stirred solution of methyl 1-C-(3-{[5-(4-fluorophenyl)-2-thienyl]methyl}-4-methylphenyl)-D-glucopyranoside (net weight 10.54 g) in toluene and ethyl acetate was added N-methylmorpholine (11.9 g) and 4-dimethylaminopyridine (217 mg) at room temperature. The solution was cooled to 0° C. and acetic anhydride (52.7 mL) was added dropwise below 15° C. The reaction mixture was allowed to warm to room temperature and stirred for 15 hours. The mixture was quenched with 28% NH3 aqueous solution (ca. 31.6 mL) while maintaining pH range of 6 to 7. Water was added to the mixture and separated. The organic layer was washed with water and brine, dried over anhydrous MgSO4 and filtered. The filtrate was concentrated in vacuo to give methyl 2,3,4,6-tetra-O-acetyl-1-C-(3-{[5-(4-fluorophenyl)-2-thienyl]methyl}-4-methylphenyl)-D-glucopyranoside (17.59 g) as yellow oil.

reactant | methyl 1-C-(3-{[5-(4-fluorophenyl)-2-thienyl]methyl}-4-methylphenyl)-D-glucopyranoside | 10.54 g | FC1=CC=C(C=C1)C1=CC=C(S1)CC=1C=C(C=CC1C)C1(OC)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H27FO6S
reactant | N-methylmorpholine | 11.9 g | CN1CCOCC1 | C5H11NO
reactant | acetic anhydride | 52.7 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 217 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 2,3,4,6-tetra-O-acetyl-1-C-(3-{[5-(4-fluorophenyl)-2-thienyl]methyl}-4-methylphenyl)-D-glucopyranoside | 17.59 g | C(C)(=O)O[C@H]1C(OC)(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)C)CC=1SC(=CC1)C1=CC=C(C=C1)F | C33H35FO10S
